US08283353B2
3′-fluoro-4′-{[4-(trans-4-{1-[2-(fluoromethyl)oxiran-2-yl]ethoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 3′-fluoro-4′-({4-[trans-4-(3-fluoro-2-hydroxy-1-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.15 g), Dess-Martin periodinane (0.22 g) and acetonitrile (2 mL) was stirred at room temperature for 12 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was added to a mixture of trimethylsulfoxonium iodide (0.057 g), sodium hydride (0.010 g) and dimethyl sulfoxide (4 mL) stirred at room temperature for 1 hr in advance, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.079 g, 52%).

reactant | 3′-fluoro-4′-({4-[trans-4-(3-fluoro-2-hydroxy-1-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.15 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(CF)O)C)=O)C=2C(=CC=CC2)C#N | C32H35F2N5O3
reactant | Dess-Martin periodinane | 0.22 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3′-fluoro-4′-{[4-(trans-4-{1-[2-(fluoromethyl)oxiran-2-yl]ethoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.079 g, 52% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C)C2(OC2)CF)=O)C=2C(=CC=CC2)C#N | C33H35F2N5O3
